US05037837
To a solution of 0.88 g of 5-(4-methoxymethoxy-3,5-dimethoxyphenyl)pentanoic acid and 0.42 g of 2-mercaptothiazoline in 30 ml of dichloromethane were added 0.73 g of dicyclohexylcarbodiimide and 36 mg of 4-dimethylaminopyridine at room temperature followed by stirring for 16 hours. The reaction mixture was filtered with suction, and the filtrate washed with a 1N aqueous NaOH solution and then with saturated aqueous sodium chloride and dried over sodium sulfate. The solvent was removed by distillation, and the residue subjected to column chromatography on silica gel. From the fraction eluted with dichloromethane was obtained 1.15 g of N-[5-(4-methoxymethoxy-3,5-dimethoxyphenyl)pentanoyl)-thiazolidine-2-thione.

reactant | 5-(4-methoxymethoxy-3,5-dimethoxyphenyl)pentanoic acid | 0.88 g | COCOC1=C(C=C(C=C1OC)CCCCC(=O)O)OC | C15H22O6
reactant | 2-mercaptothiazoline | 0.42 g | SC=1SCCN1 | C3H5NS2
reactant | dicyclohexylcarbodiimide | 0.73 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 36 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[5-(4-methoxymethoxy-3,5-dimethoxyphenyl)pentanoyl)-thiazolidine-2-thione | 1.15 g | COCOC1=C(C=C(C=C1OC)CCCCC(=O)N1C(SCC1)=S)OC | C18H25NO5S2
